US05152824
2.69 g (61.5 mmol) of 55% sodium hydride was washed with n-hexane and then suspended in 100 ml of dry THF. Then, 4.62 g (30 mmol) of N,N-dimethyl-N'-methoxysulfamide dissolved in 20 ml of THF was dropwise added thereto under cooling with ice. The mixture is heated to room temperature and then stirred at room temperature for one hour. Then, this reaction mixture was again cooled with ice, and 7.07 g (30 mmol) of phenyl N-chlorosulfonylcarbamate dissolved in 30 ml of dry THF was dropwise added thereto. The mixture was heated to room temperature and then stirred at room temperature for 30 minutes. The reaction mixture was poured into 500 ml of ice water containing 6.4 g of 35% hydrochloric acid and extracted three times with 80 ml of diethyl ether. The extract solution was washed three times with 100 ml of water and once with 100 ml of a saturated sodium chloride aqueous solution and then dried over anhydrous magnesium sulfate. Then, the solvent was distilled off under reduced pressure to obtain 10.1 g of phenyl N-[(N-dimethylsulfamoyl-N-methoxyamino)sulfonyl]carbamate as slightly yellow oil.

reactant | sodium hydride | 61.5 mmol, 2.69 g | [H-].[Na+]
reactant | N,N-dimethyl-N'-methoxysulfamide | 30 mmol, 4.62 g | CN(S(=O)(=O)NOC)C | C3H10N2O3S
reactant | phenyl N-chlorosulfonylcarbamate | 30 mmol, 7.07 g | ClS(=O)(=O)NC(OC1=CC=CC=C1)=O | C7H6ClNO4S
reactant | hydrochloric acid | Cl | ClH
solvent | n-hexane | CCCCCC | C6H14
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | phenyl N-[(N-dimethylsulfamoyl-N-methoxyamino)sulfonyl]carbamate | 10.1 g | CN(S(=O)(=O)N(OC)S(=O)(=O)NC(OC1=CC=CC=C1)=O)C | C10H15N3O7S2
